US06884821B1
6.04 g of tertiary butyl N-(2-methoxybenzyl)carbamate was dissolved in 50 ml acetonitrile, followed by adding 4.6 g of N-bromosuccinimide thereto. After stirring at room temperature for 3 hours, the solvent was evaporated. The residue was dissolved in ethyl acetate and successively-washed with water and brine. The organic layer was dried over anhydrous magnesium sulfate and the solvent was evapoarated. The residue was washed with a mixture of methyl tertiary butyl methyl ether and hexane, to give 6.97 g of tertiary butyl N-(5-bromo-2-methoxybenzyl)carbamate.

reactant | tertiary butyl N-(2-methoxybenzyl)carbamate | 6.04 g | COC1=C(CNC(OC(C)(C)C)=O)C=CC=C1 | C13H19NO3
reactant | N-bromosuccinimide | 4.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | tertiary butyl N-(5-bromo-2-methoxybenzyl)carbamate | 6.97 g | BrC=1C=CC(=C(CNC(OC(C)(C)C)=O)C1)OC | C13H18BrNO3
